US07906517B2
Ethyl 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-heptanoate (250 mg) is dissolved in ethanol (4 ml), and thereto is added a 1N-aqueous sodium hydroxide solution (1 ml) and the mixture is stirred at room temperature for 3 hours and 30 minutes. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→19:1) to give 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethylamino]-heptanoic acid (131 mg). The resulting 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-heptanoic acid (131 mg) is dissolved in ethanol (1 ml), and thereto is added a 1N-aqueous sodium hydroxide solution (178 μl), and concentrated under reduced pressure to give 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-heptanoic acid sodium salt (133 mg). MS (m/z): 734 [M−Na]−

reactant | 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-heptanoic acid | 131 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCCC(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C34H38F9N5O3
reactant | sodium hydroxide | 178 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-heptanoic acid sodium salt | 133 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCCC(=O)[O-])CC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C34H38F9N5O3.Na/c1-2-46(10-6-4-3-5-7-30(49)50)29-9-8-25(32(35,36)37)17-24(29)22-48(31-44-19-28(20-45-31)47-11-13-51-14-12-47)21-23-15-26(33(38,39)40)18-27(16-23)34(41,42)43;/h8-9,15-20H,2-7,10-14,21-22H2,1H3,(H,49,50);/q;+1/p-1
